US07671080B2
3-Hydroxymethyl-benzaldehyde (1.14 g, 8.35 mmol), tosylmethyl isocyanide (2.47 g, 12.5 mmol) and potassium carbonate (1.75 g, 12.5 mmol) in methanol (25 ml) were refluxed at 85° C. for 1 h. The reaction was concentrated, residue dissolved in DCM/water and separated using a hydrophobic filter tube. The organic phase was concentrated and purified by silica chromatography using DCM followed by DCM:MeOH (19:1) to yield (3-oxazol-5-yl-phenyl)methanol (1.32 g, 90%) as an orange oil.

reactant | 3-Hydroxymethyl-benzaldehyde | 8.35 mmol, 1.14 g | OCC=1C=C(C=O)C=CC1 | C8H8O2
reactant | tosylmethyl isocyanide | 12.5 mmol, 2.47 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 12.5 mmol, 1.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 25 ml | CO | CH4O
product | (3-oxazol-5-yl-phenyl)methanol | 1.32 g, 90% | O1C=NC=C1C=1C=C(C=CC1)CO | C10H9NO2
